US08735387B2
(c) 5-(4-Chloro-benzyl)-2-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidine
A suspension of 8.7 mmol of polystyrene-bound triphenylphosphine (Argonaut) and 1.5 g of diethyl azodicarboxylate (DEAD) in 55 ml of tetrahydrofuran was stirred for 15 min at 0° C. Then 2.2 g of 5-(4-chloro-benzyl)-2-methylsulfanyl-oxazolo[5,4-d]pyrimidin-7-ol, 0.65 ml of propan-1-ol and 1 ml of triethylamine were added. The reaction mixture was stirred at room temperature for 3 h. The polymer was filtered off and washed thoroughly with tetrahydrofuran. The solvent was removed in vacuo and the title compound isolated by silica gel chromatography (method SC1).

reactant | diethyl azodicarboxylate | 1.5 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5-(4-chloro-benzyl)-2-methylsulfanyl-oxazolo[5,4-d]pyrimidin-7-ol | 2.2 g | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)SC)O)C=C1 | C13H10ClN3O2S
reactant | propan-1-ol | 0.65 ml | C(CC)O | C3H8O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
product | 5-(4-Chloro-benzyl)-2-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidine | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)SC)OCCC)C=C1 | C16H16ClN3O2S
